US07157447B2
4-Fluoro-2-methoxybenzylamine hydrochloride.
To a mixture of intermediate 127, 4-fluoro-2-methoxybenzonitrile, (800 mg, 5.3 mmol) and conc.HCl (0.53 mL, 6.36 mmol, 1.2 eq.) in ethanol (20 mL) was added 10% Pd—C (100 mg; Aldrich), and the mixture hydrogenated at 1 atm hydrogen for 15 hrs at room temperature. To this mixture was added an additional amount of conc.HCl (1 mL) and 10% Pd—C (200 mg) and the reaction allowed to continue for another 40 hrs. The mixture was filtered through Celite and the filtrate concentrated in vacuo to dryness. The residue was triturated with ether to provide the title compound (895 mg, Yield 88%) as a white powder: 1H NMR (CDCl3, 500 MHz) δ ppm: 3.84 (3H, s, OMe), 3.91 (2H, d, J=5.5 Hz, N—CH2), 6.81 (1H, dt, J=2.5 Hz, J=J=8.5 Hz, Ar—H), 6.99 (1H, dd, J=2.5 Hz, J=11.3 Hz, Ar—H), 7.47 (1H, dd, J=7 Hz, J=8.5 Hz, Ar—H); 13C NMR (CDCl3, 125.8 Hz) δ ppm: 36.76, 56.03, 99.30, 99.51 106.28, 106.45, 117.93, 117.95, 131.60, 131.69, 158.56, 158.64, 162.28, 164.22. HRMS (ESI) calcd for C8H11FNO (M+H) 156.0825. found 156.0830.

reactant | 4-fluoro-2-methoxybenzonitrile | 5.3 mmol, 800 mg | FC1=CC(=C(C#N)C=C1)OC | C8H6FNO
reactant | HCl | 6.36 mmol, 0.53 mL, 1.2 eq. | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | HCl | 1 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd—C | 100 mg | [Pd] | Pd
catalyst | Pd—C | 200 mg | [Pd] | Pd
product | 4-Fluoro-2-methoxybenzylamine hydrochloride | 895 mg, Yield 88% | Cl.FC1=CC(=C(CN)C=C1)OC | InChI=1S/C8H10FNO.ClH/c1-11-8-4-7(9)3-2-6(8)5-10;/h2-4H,5,10H2,1H3;1H
